US06211215B1
In substantially the same manner as in Working Example 25, 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate was allowed to react with ethyl 2-imidazolecarboxylate to give ethyl 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2-imidazolecarboxylate. The yield was 68%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 123-124° C.

reactant | 3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl methanesulfonate | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCC=1N=C(OC1)\C=C\C1=CC=CC=C1 | C22H23NO5S
reactant | ethyl 2-imidazolecarboxylate | N1C(=NC=C1)C(=O)OCC | C6H8N2O2
product | ethyl 1-[3-[4-[2-[(E)-2-phenylethenyl]-4-oxazolylmethoxy]phenyl]propyl]-2-imidazolecarboxylate | yield was 68% | C1(=CC=CC=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCN1C(=NC=C1)C(=O)OCC | C27H27N3O4
